US05217843
Ethyl 2-chloro-3-oxo-butyrate
32.5 g 0.25 mol) of ethyl acetoacetate are dissolved in 64 ml of methylene chloride. 33.74 g (0.25 mol) of sulfuryl chloride are added dropwise to the solution, and the mixture is then (when the evolution of gas is complete) heated at a gentle boil for 1 hour. After the methylene chloride has been removed by distillation, the residue is distilled at 86°-92° C./12 mmHg. 38.8 g of substance are obtained, 1H NMR: --CH3 1.31 ppm (t, 3H), --CH2 -- (ester) 4.28 ppm (q, 2H), --CH3 (acetyl) 2.38 ppm (s, 3H), --CHCl-- 4.76 ppm (s, 1H).

reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sulfuryl chloride | 0.25 mol, 33.74 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 64 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-chloro-3-oxo-butyrate | ClC(C(=O)OCC)C(C)=O | C6H9ClO3
